US04632930
To a solution of 5.90 g (14.2 mmol) of 5-(1-methylethyl)-4-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)thiazole-2-methanol in 200 ml of methanol at 25° C. was added 21.3 g (34.7 mmol) of Oxone® (potassium hydrogen persulfate) and the resulting suspension was stirred at 25° C. for 3 hours. The suspension was filtered, and the filtrate concentrated in vacuo. The residue was dissolved in ethyl acetate; and the solution was washed with distilled water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated. The crude product was recrystallized from n-butyl chloride to provide 3.34 g of 5-(1-methylethyl)-4-(4-methylsulfonylphenyl)-α,α-bis(trifluoromethyl)thiazole-2-methanol as a yellow crystalline solid, m.p. 122°-123° C.

reactant | 5-(1-methylethyl)-4-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)thiazole-2-methanol | 14.2 mmol, 5.90 g | CC(C)C1=C(N=C(S1)C(O)(C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)SC | C16H15F6NOS2
reactant | Oxone | 34.7 mmol, 21.3 g | OOS(=O)[O-].[K+]
reactant | potassium hydrogen persulfate | S(=O)(=O)(O)OOS(=O)(=O)[O-].[K+]
reactant | methanol | 200 ml | CO | CH4O
product | 5-(1-methylethyl)-4-(4-methylsulfonylphenyl)-α,α-bis(trifluoromethyl)thiazole-2-methanol | 3.34 g | CC(C)C1=C(N=C(S1)C(O)(C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)C | C16H15F6NO3S2
